US04769472
3-[2-Epoxymethoxyphenyl)-1-methyl-1H-thieno[3,2-c]pyrazole
A mixture of 14 g of 3-(2-hydroxyphenyl)-1-methyl-1H-thieno[3,2-c]pyrazole, 10 g of epibromohydrin, 5 g of potassium carbonate and 75 ml of acetonitrile was stirred under nitrogen at 70°-80° C. After 16 hours of stirring, thin layer chromatography (1:1 hexane/ethyl acetate) showed residual starting material. Therefore, 2 g of epibromohydrin and 10 ml of dimethylformamide were added and the mixture was stirred overnight at 92° C., and thereafter quenched, extracted with ether/ethyl acetate (1:1), washed and dried (over anhydrous magnesium sulfate). The epoxide was separated from other by-products using HPLC (eluent=DCM).

reactant | 3-(2-hydroxyphenyl)-1-methyl-1H-thieno[3,2-c]pyrazole | 14 g | OC1=C(C=CC=C1)C=1C2=C(N(N1)C)C=CS2 | C12H10N2OS
reactant | epibromohydrin | 10 g | C(Br)C1CO1 | C3H5BrO
reactant | potassium carbonate | 5 g | C([O-])([O-])=O.[K+].[K+]
reactant | acetonitrile | 75 ml | C(C)#N | C2H3N
reactant | epibromohydrin | 2 g | C(Br)C1CO1 | C3H5BrO
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | 3-[2-Epoxymethoxyphenyl)-1-methyl-1H-thieno[3,2-c]pyrazole | O1C2=C(C=CC(=C21)OC)C=2C1=C(N(N2)C)C=CS1 | C13H10N2O2S
